US08729112B2
3-Chloro-4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one
A solution of 4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one (400 mg, 2.18 mmol) in MeOH (6 ml) was cooled to 0° C. and tert-butylhypochlorite (294 mg, 2.73 mmol) was added. The solution was stirred for 2 h, concentrated in vacuo, and the residue purified by flash chromatography (0% to 10% MeOH in DCM) to afford the title compound as a white solid (350 mg, 74%). 1H NMR (CDCl3, 400 MHz) δ 1.54 (s, 3H), 2.48-2.57 (m, 1H), 2.64-2.76 (m, 1H), 4.28 (d, J=8.4 Hz, 1H), 4.45 (d, J=8.8 Hz, 1H). 19F NMR (CDCl3, 376 MHz) δ −60.93 (t, J=10.5 Hz). 13C NMR (CDCl3, 100 MHz) δ 20.8, 39.8 (q, J=28 Hz), 62.1, 72.8, 125 (q, J=265 Hz), 155.4. LRMS (ESI/APCI): 259 [M+H+CH3CN]+, 218 [M+H]+.

reactant | 4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one | 2.18 mmol, 400 mg | CC1(NC(OC1)=O)CC(F)(F)F | C6H8F3NO2
reactant | tert-butylhypochlorite | 2.73 mmol, 294 mg | C(C)(C)(C)OCl | C4H9ClO
solvent | MeOH | 6 ml | CO | CH4O
product | 3-Chloro-4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one | 350 mg, 74% | ClN1C(OCC1(CC(F)(F)F)C)=O | C6H7ClF3NO2
